US07196080B2
To a THF (20 ml) solution of 500 mg of 6-(3,4-dimethoxyphenyl)pyridine-2-carboxylic acid were added 0.18 ml of oxalyl chloride and one drop of DMF under ice cooling. After 30 minutes ofstirring, the reaction solution was added dropwise to a pyridine (10 ml) solution of 370 mg of 4-(4-methoxyphenyl)piperazine under ice cooling. The mixture was warmed to room temperature and further stirred for 30 minutes. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform-methanol) and recrystallization was further carried out from ethyl acetate-acetonitrile to obtain 370 mg of 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-(4-methoxyphenyl)piperazine as colorless crystals.

reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | 6-(3,4-dimethoxyphenyl)pyridine-2-carboxylic acid | 500 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)O | C14H13NO4
reactant | oxalyl chloride | 0.18 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-methoxyphenyl)piperazine | 370 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-(4-methoxyphenyl)piperazine | 370 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C25H27N3O4
